US09340573B2
To a solution of (S)-ethyl 1-((S)-2-(tert-butoxycarbonylamino)-3-methylbutanoyl)-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine-2-carboxylate (1.9 g, 4.85 mmol, Eq: 1.00) in EtOH (10.1 mL) was added HCl (2 M in ether, 38.0 mL, 76.0 mmol, Eq: 15.7) and the resulting solution was stirred at rt overnight. The reaction mixture was concentrated in vacuo and azeotroped with n-heptane (1×75 mL) to give (S)-ethyl 1-((S)-2-amino-3-methylbutanoyl)-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine-2-carboxylate hydrochloride as a white solid (1.6 g).

reactant | (S)-ethyl 1-((S)-2-(tert-butoxycarbonylamino)-3-methylbutanoyl)-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine-2-carboxylate | 4.85 mmol, 1.9 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](CC=2C1=NC=CC2)C(=O)OCC)C(C)C | C20H29N3O5
reactant | HCl | 76.0 mmol, 2 M, 38.0 mL | Cl | ClH
solvent | EtOH | 10.1 mL | CCO | C2H6O
product | (S)-ethyl 1-((S)-2-amino-3-methylbutanoyl)-2,3-dihydro-1H-pyrrolo[2,3-b]pyridine-2-carboxylate hydrochloride | 1.6 g | Cl.N[C@H](C(=O)N1[C@@H](CC=2C1=NC=CC2)C(=O)OCC)C(C)C | InChI=1S/C15H21N3O3.ClH/c1-4-21-15(20)11-8-10-6-5-7-17-13(10)18(11)14(19)12(16)9(2)3;/h5-7,9,11-12H,4,8,16H2,1-3H3;1H/t11-,12-;/m0./s1
